US06043286
Preparation of 2-hydroxy-3-(1 -methylbutyl)-naphthalene-1,4-dione
The method of Example 1 was followed using 2-acetyloxynaphthalene-1,4-dione (1.24 g, 5.74 mmol) and 2-methylpentanoic acid (1.00 g) yielded the title compound (608 mg) after hydrolysis in. 30 ml THF using potassium hydroxide (5×exess) in water (8 ml) (mp 82-83° C.). This compound is listed as compound 3 in the Tables below.

reactant | 2-acetyloxynaphthalene-1,4-dione | 5.74 mmol, 1.24 g | C(C)(=O)OC=1C(C2=CC=CC=C2C(C1)=O)=O | C12H8O4
reactant | 2-methylpentanoic acid | 1.00 g | CC(C(=O)O)CCC | C6H12O2
product | 2-hydroxy-3-(1 -methylbutyl)-naphthalene-1,4-dione | 608 mg | OC=1C(C2=CC=CC=C2C(C1C(CCC)C)=O)=O | C15H16O3
